US08623859B2
Boc2O Di-tert-butyldicarbonate
To a stirred solution of amine (1.0 eq), TEA (2 eq) in DCM (25 vol) was added di-tert-butyl dicarbonate, (1.1 eq). The mixture was stirred overnight at ambient temperature. The mixture was concentrated in vacuo and purified by FCC eluting with EtOAc:Heptane, 1:3.

reactant | di-tert-butyl dicarbonate | 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Boc2O Di-tert-butyldicarbonate | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C.C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | 2C10H18O5
